* ACDC testbench adapted from AnalogGym AMP_DFCFC2 for SMCNR_SE_2st_AMP
.include "E:/codex-magical-sky130-harness/magical-sky130-harness/generated/analog_harness/smcnr_se_2st_amp/cand_0031/sim/post_layout_pvt/tt_1v8_27C/SMCNR_SE_2st_AMP_extracted.raw.ngspice_units.spice"
.temp 27
.param VDDVAL=1.8
.param VCM=0.9
.param IBIAS=10u
.param CLOAD=100f
VDD vdda 0 {VDDVAL}
VGND gnda 0 0
IIB vdda ibias DC {IBIAS}
VINP vip 0 DC {VCM} AC 0.5
VINN vin 0 DC {VCM} AC -0.5
CLOAD vout 0 {CLOAD}
XU vdda gnda vin vip ibias vout SMCNR_SE_2st_AMP_flat
.control
save all
.options savecurrents
set filetype=ascii
set units=degrees
op
let supply_current = abs(i(VDD))
let power_mw = 1.8 * supply_current * 1000
wrdata SMCNR_SE_2st_AMP_ACDC_POWER power_mw
ac dec 20 1 1e+12
meas ac dcgain_ find vdb(vout) at = 1
meas ac gain_bandwidth_product_ when vdb(vout)=0
meas ac phase_at_unity find vp(vout) when vdb(vout)=0
let phase_margin = 180 + phase_at_unity
wrdata SMCNR_SE_2st_AMP_ACDC_AC dcgain_
wrdata SMCNR_SE_2st_AMP_ACDC_GBW_PM gain_bandwidth_product_ phase_margin
wrdata SMCNR_SE_2st_AMP_ACDC_SWEEP vdb(vout) vp(vout)
.endc
.end
